US06900216B2
A solution of bromine (2.94 ml) in dichloromethane (30 ml) was added dropwise under nitrogen at −5° C. to a stirred mixture of 4-methylbenzo[b]thiophene (7.68 g), sodium acetate (6.38 g) and dichloromethane (100 ml). The mixture was stirred at ambient temperature for 6 hours, then it was filtered and the solvent was removed in vacuo. The residue was was distilled in vacuo to give 3-bromo-4-methylbenzo[b]thiophene (6.04 g) as a yellow oil, b.p. 100-120° C. @ 0.4 mmHg, which was used without further purification.

reactant | bromine | 2.94 ml | BrBr | Br2
reactant | 4-methylbenzo[b]thiophene | 7.68 g | CC1=CC=CC=2SC=CC21 | C9H8S
reactant | sodium acetate | 6.38 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-bromo-4-methylbenzo[b]thiophene | 6.04 g | BrC=1C2=C(SC1)C=CC=C2C | C9H7BrS
